US06936608B2
2-[7-(4-Fluoro-3-(pyridazin-4-yl)phenyl)imidazo[1,2-b][1,2,4]triazin-3-yl]-propan-2-ol
4-Fluoro-3-(pyridazin-4-yl)phenylboronic acid (300 mg, 1.38 mmol) was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol (100 mg, 0.39 mmol) using the method of Example 20. Purification by chromatography (silica gel, 3% MeOH/CH2Cl2) then dissolving in toluene and washing with water followed by recrystallisation from hot toluene with isohexane gave the title compound as a yellow solid: 1H NMR (400 MHz, CDCl3) δ 1.73 (6H, s), 3.23 (1H, s), 7.41 (1H, dd, J 10, 9 Hz), 7.75-7.78 (1H, m), 8.08-8.13 (1H, m), 8.28 (1H, s), 8.31 (1H, dd, J 7, 2 Hz), 8.83 (1H, s), 9.32 (1H, dd, J 5, 1 Hz), 9.50-9.52 (1H, m); MS (ES+) m/z 351 [M+H]+.

reactant | 4-Fluoro-3-(pyridazin-4-yl)phenylboronic acid | 1.38 mmol, 300 mg | FC1=C(C=C(C=C1)B(O)O)C1=CN=NC=C1 | C10H8BFN2O2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 0.39 mmol, 100 mg | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 2-[7-(4-Fluoro-3-(pyridazin-4-yl)phenyl)imidazo[1,2-b][1,2,4]triazin-3-yl]-propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)C2=CN=NC=C2 | C18H15FN6O
